US07214802B2
A solution of isopropylmagnesium bromide (2M in Et2O; 36.5 mL, 73.0 mmol) was added to 4.36 mL (36.6 mmol) of malonic acid monoethyl ester in 30 mL of THF under N2 at 0° C. The reaction was stirred at 0° C. for 30 min, at room temperature for 30 min, and then at 40° C. for 30 min. The mixture was subsequently cooled to 0° C. and a imidazol-1-yl-pyridin-2-yl-methanone solution (prepared by stirring 3.00 g (24.3 mmol) of pyridine-2-carboxylic acid with 4.7 g (29 mmol) of CDI in 30 mL of THF for 12 h) was slowly added. The reaction was allowed to warm to room temperature and stirred for 12 h. The mixture was then poured into ice cold 1M H3PO4 (150 mL). Solid NaHCO3 was added to the mixture until the pH reached 7. The mixture was extracted with EtOAc (3×100 mL). The combined organic extracts were washed with NaHCO3 (100 mL) and brine, dried with MgSO4, filtered, and concentrated to provide 2.5 g ethyl 3-oxo-3-pyridin-2-yl-propionate as an oil.

reactant | isopropylmagnesium bromide | 73.0 mmol, 2M, 36.5 mL | C(C)(C)[Mg]Br
reactant | malonic acid monoethyl ester | 36.6 mmol, 4.36 mL | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | imidazol-1-yl-pyridin-2-yl-methanone | 24.3 mmol, 30 mL, 3.00 g | N1(C=NC=C1)C(=O)C1=NC=CC=C1 | C9H7N3O
reactant | pyridine-2-carboxylic acid | 24.3 mmol | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | CDI | 29 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 3-oxo-3-pyridin-2-yl-propionate | 2.5 g | O=C(CC(=O)OCC)C1=NC=CC=C1 | C10H11NO3
